US04764519
(e) 2-[3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine
A mixture of 3-[3-(5,6,7,8-tetrahydroquinol-8-yl)propyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine (3.56 g) and polyphosphoric acid (17.5 g) were heated with stirring at 188°-197° C. for 50 minutes. Water (30 ml) was added to the hot residue and, after slight cooling, the solution was basified with aqueous ammonium hydroxide to pH 10 and then extracted with chloroform. The combined chloroform extracts were dried over magnesium sulphate, concentrated in vacuo and the residue was chromatographed on silica eluted with 5% v/v methanol in chloroform to give the title compound as a brown gum (0.68 g). The aqueous portion after extraction, was concentrated to dryness, to give a paste, water (100 ml) was then added, the mixture was refluxed for 1 hour and a brown oil which formed was extracted with chloroform (3×100 ml). The extracts were dried, combined and concentrated to give a further quantity of the title compound as an oil (0.31 g). The two portions of the product were combined, converted to the trihydrochloride with ethanolic HCl and then recrystallised, first from isopropanol and then from isopropanol/methanol to give the title compound as a buff solid (0.5 g).

reactant | 3-[3-(5,6,7,8-tetrahydroquinol-8-yl)propyl]-6-(pyrid-3-ylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine | 3.56 g | N1=CC=CC=2CCCC(C12)CCCN1N=NC=2C1=NC=C(C2)CC=2C=NC=CC2 | C23H24N6
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Water | 30 ml | O | H2O
product | 2-[3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino]-3-hydroxy-5-(pyrid-3-ylmethyl)pyridine | 0.68 g | N1=CC=CC=2CCCC(C12)CCCNC1=NC=C(C=C1O)CC=1C=NC=CC1 | C23H26N4O
